US04299943
Preparation of zirconium-4-carboethoxybutylphosphonate
To a reaction flask under an inert atmosphere was added 3.13 g of bis-trimethylsilyl-4-carboethoxybutylphosphonate. To the flask was slowly added 1.44 g of zirconium propoxide. After the first few drops were added, a gelatinous product was formed. Agitation was continued during the remainder of the addition.

reactant | bis-trimethylsilyl-4-carboethoxybutylphosphonate | 3.13 g | C[Si](C)(C)OP(O[Si](C)(C)C)(=O)CCCCC(=O)OCC | C13H31O5PSi2
reactant | zirconium propoxide | 1.44 g | [O-]CCC.[Zr+4].[O-]CCC.[O-]CCC.[O-]CCC
product | zirconium 4-carboethoxybutylphosphonate | [Zr].C(=O)(OCC)CCCCP([O-])([O-])=O | InChI=1S/C7H15O5P.Zr/c1-2-12-7(8)5-3-4-6-13(9,10)11;/h2-6H2,1H3,(H2,9,10,11);/p-2
